US05877342
Preparation of (E)-4-[[2-[4-(1-adamantyl)-3-hydroxyphenyl]ethenyl]]benzoic acid
258 mg (0.5 mmol) of ethyl (E)-4-[[2-[4-(1-adamantyl)-3-hydroxyphenyl]ethenyl]]benzoate, 105 mg (2.5 mmol) of lithium hydroxide and 10 ml of THF were introduced into a round-bottomed flask. The reaction medium was stirred at room temperature for 12 hours, poured into water, neutralized with hydrochloric acid and extracted with ethyl ether. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was triturated from a mixture of dichloromethane and hexane, filtered and dried. 95 mg (51%) of the expected acid, having a melting point of 334°-5° C., were recovered.

reactant | ethyl (E)-4-[[2-[4-(1-adamantyl)-3-hydroxyphenyl]ethenyl]]benzoate | 0.5 mmol, 258 mg | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)/C=C/C2=CC=C(C(=O)OCC)C=C2)O | C27H30O3
reactant | lithium hydroxide | 2.5 mmol, 105 mg | [OH-].[Li+]
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | (E)-4-[[2-[4-(1-adamantyl)-3-hydroxyphenyl]ethenyl]]benzoic acid | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C(C=C2)/C=C/C2=CC=C(C(=O)O)C=C2)O | C25H26O3
